US07838499B2
Preparation of (5-bromo-2-chlorophenyl)(p-tolyl)methanone (Intermediate AG)
To a stirred suspension of compound 5-bromo-2-chlorobenzoic acid (20 g, 85.5 mmol) in 200 mL of CH2Cl2 containing oxalyl chloride (11.2 mL) was added 0.5 mL of DMF. Once the vigorous evolution of gas ceased, the reaction was stirred overnight and then the volatiles were removed under reduced pressure. After dissolving the crude 5-bromo-2-chlorobenzoyl chloride in 150 mL of toluene, the solution was cooled to −10° C. Then AlCl3 (22.4 g, 170 mmol) was added while insuring the temperature did not exceed 0° C. HCl gas emission was trapped by passing the gas over a stirred concentrated NaOH solution. HPLC-MS revealed the reaction to be 98% complete after the addition was finished. The reaction was quenched by pouring over ice. The suspension was diluted with H2O and extracted 3× with CH2Cl2. The combined organic extracts were washed 2× with 1N HCl, 1× with H2O, 2× with 1M NaOH, and 2× with brine prior to drying over Na2SO4. After removal of the volatiles, crystallization of the crude product from ethanol (80 mL) yielded intermediate AG (16 g).

reactant | 5-bromo-2-chlorobenzoic acid | 85.5 mmol, 20 g | BrC=1C=CC(=C(C(=O)O)C1)Cl | C7H4BrClO2
reactant | oxalyl chloride | 11.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | AlCl3 | 170 mmol, 22.4 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (5-bromo-2-chlorophenyl)(p-tolyl)methanone | BrC=1C=CC(=C(C1)C(=O)C1=CC=C(C=C1)C)Cl | C14H10BrClO
